US08445505B2
To a mixture of 5-bromo-4-methylpyridin-2-amine (200 mg, 1.07 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (370 mg, 1.2 mmol) and sodium carbonate (400 mg, 1.28 mmol) in DMF/H2O (8/2 mL) was added tetrakis(triphenylphosphine) palladium (0) (62 mg, 5% mmol). The reaction tube is sealed, the mixture was purged with N2 for 3 min and then heated at 100° C. under N2 for overnight. The reaction was cooled to room temperature and poured into saturated aqueous ammonia chloride solution. The crude reaction mixture was extracted with ethyl acetate (3×15 mL). The organic extracts were combined, washed with brine and concentrated. The crude product was purified with silica gel column chromatography (80% ethyl acetate in hexanes) to afford tert-butyl 4-(6-amino-4-methylpyridin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate as a yellow oil. The obtained oil was dissolved in methanol (20 mL). To the solution was added Pd/C (10% w/w). The reaction mixture was degassed and purged with H2 for several times and then stirred under 1 atm. H2 overnight. The mixture was filtered and concentrated to afford tert-butyl 4-(6-amino-4-methylpyridin-3-yl)piperidine-1-carboxylate as a yellow solid; ESMS m/z 236 (M−56+H+).

reactant | 5-bromo-4-methylpyridin-2-amine | 1.07 mmol, 200 mg | BrC=1C(=CC(=NC1)N)C | C6H7BrN2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.2 mmol, 370 mg | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | sodium carbonate | 1.28 mmol, 400 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF H2O | 2 mL | CN(C)C=O.O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 62 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 4-(6-amino-4-methylpyridin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate | NC1=CC(=C(C=N1)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H23N3O2
